US04042710
A solution of diethyl isopropylmalonate (8.1g) in 25 ml of a 25% solution of HMPT (hexamethylphosphorus triamide) in toluene was added dropwise over 15 minutes to a suspension of sodium hydride (50 mM) in 25% HMPT/toluene (50 ml) at room temperature. The mixture was then stirred at 60° C. for 1/2 hour, cooled to 25° C. and methallyl chloride (4.0g) in 25% HMPT/toluene was added over 10 minutes. The mixture was stirred at 80°-85° C. overnight, cooled to room temperature and poured onto a mixture of ice/hydrochloric acid. The product was extracted with ether, the ethereal extracts washed with water, followed by 2N sodium hydroxide and then water, and dried over magnesium sulphate. Removal of solvent gave diethyl isopropyl-2-methylprop-2-enylmalonate as a pale yellow liquid. R.I. nD21 1.4467.

reactant | diethyl isopropylmalonate | 8.1g | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | HMPT | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | sodium hydride | 50 mM | [H-].[Na+]
reactant | methallyl chloride | 4.0g | C(C(C)=C)Cl | C4H7Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | HMPT toluene | 50 ml | CN(C)P(N(C)C)N(C)C.C1(=CC=CC=C1)C
product | diethyl isopropyl-2-methylprop-2-enylmalonate | C(C)(C)C(C(=O)OCC)(C(=O)OCC)CC(=C)C | C14H24O4
